US08193187B2
2-Iodo-5-methoxymethoxyanisole (Reference Compound No. 6)
A mixture of 5-hydroxy-2-iodoanisole (Reference Compound No. 5, 4.30 g, 17.2 mmol), chlorodimethylether (2.46 mL, 32.4 mmol), and potassium carbonate (5.94 g, 43.0 mmol) was suspended in anhydrous N,N-dimethylformamide (80 mL) and stirred at 50° C. for 1.5 hours. After cooling down, the reaction mixture was diluted with ethyl acetate (100 mL) and diethylether (200 mL). It was washed with water (300 mL), then the aqueous layer was extracted with diethylether (100 mL). After the organic layers were combined, washed with water (200 mL, twice) and saturated brine (100 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (958 mg) as a coloreless oil. (Yield 19%)

reactant | 5-hydroxy-2-iodoanisole | 17.2 mmol, 4.30 g | OC=1C=CC(=C(C1)OC)I | C7H7IO2
reactant | potassium carbonate | 43.0 mmol, 5.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
product | 2-Iodo-5-methoxymethoxyanisole | 958 mg, Yield 19% | IC1=C(C=C(C=C1)OCOC)OC | C9H11IO3
